US06235771B1
To a solution of 7-hydroxybenzofuran (2.60 g) in DMF (30 ml) was added potassium carbonate (3.75 g) and then was added dropwise bromopropane (2.87 g) under nitrogen atmosphere, and the mixture was stirred overnight. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water (three times) and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give brown oil of 7-propoxybenzofuran (2.73 g).

reactant | 7-hydroxybenzofuran | 2.60 g | OC1=CC=CC=2C=COC21 | C8H6O2
reactant | potassium carbonate | 3.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromopropane | 2.87 g | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 7-propoxybenzofuran | 2.73 g | C(CC)OC1=CC=CC=2C=COC21 | C11H12O2
